US07812040B2
2-fluoro-3-(pyrrolidin-1-ylmethyl)phenol.
To a solution of intermediate 33, 1-(3-{[tert-butyl(dimethyl)silyl]oxy}-2-fluorobenzyl)pyrrolidine (19 g, 60 mmol) in MeOH (200 mL) was added KF (7.1 g, 120 mmol), and the mixture was stirred at RT for 1 h. The reaction mixture evaporated in vacuo. Water (100 mL) and concentrated HCl were added to attain pH˜6. The organic layer was separated. The aqueous one was extracted with CH2Cl2 (2×100 mL). The organic layers were discarded. The aqueous fraction was alkalized with K2CO3 to pH˜10, the aqueous one was extracted with CHCl3. The organic layer was washed with brine, dried over Na2SO4 and evaporated in vacuo, recrystallized from Et2O/hexane mixture (1:1) to give the title compound (9.3 g, 78%, 48 mmol) as a yellow crystals. LCMS data: 197.1 and 196.1 (M+H)+ (calculated for C11H14FNO 195.24). 1H NMR data (DMSO-d6): 9.63 (s, 1H, OH), 6.87-6.96 (m, 1H, H—Ar), 6.71-6.85 (m, 2H, H—Ar), 3.58 (s, 2H, Ar—CH2); 2.36-2.46 (m, 4H), 1.61-1.72 (m, 4H).

reactant | 1-(3-{[tert-butyl(dimethyl)silyl]oxy}-2-fluorobenzyl)pyrrolidine | 60 mmol, 19 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(CN2CCCC2)C=CC1)F | C17H28FNOSi
reactant | KF | 120 mmol, 7.1 g | [F-].[K+]
solvent | MeOH | 200 mL | CO | CH4O
product | 2-fluoro-3-(pyrrolidin-1-ylmethyl)phenol | 48 mmol, 9.3 g, 78% | FC1=C(C=CC=C1CN1CCCC1)O | C11H14FNO
